US07572459B2
Preparation of 3,6-Disulfo-1-naphthoxyacetamide Terminated Dendrimers
The dendrimer (DAB-Am-32; 185 mg; Mw: 3,514) dissolved in DMF (10 mL) then added PyBop (1.84 g; 2.1 eq; Mw: 520.4), followed by a solution of DBU (1 mL) and 3,6-disulfo-1-naphthoxyacetic acid (1.22 g; 2 eq; Mw: 362.3) in DMF (10 mL). The reaction mixture was left to stir overnight at R.T under N2. The solvent was removed under reduced pressure. Then purified through a sephadex (LH20) column followed by an Ion-exchange (IR120; Na+) and freeze-dried to yield SPL7320 as a white powder (402 mg, 48%).

reactant | PyBop | 1.84 g, 2.1 eq | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DBU | 1 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 3,6-disulfo-1-naphthoxyacetic acid | 1.22 g, 2 eq | S(=O)(=O)(O)C=1C=C(C2=CC=C(C=C2C1)S(=O)(=O)O)OCC(=O)O | C12H10O9S2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3,6-Disulfo-1-naphthoxyacetamide | 402 mg, 48% | S(=O)(=O)(O)C=1C=C(C2=CC=C(C=C2C1)S(=O)(=O)O)OCC(=O)N | C12H11NO8S2
